US07563797B2
Sodium hydroxide solution (2N, 0.4 mL) was added to 3-(3-chlorophenyl)-7-trifluoromehyl-imidazo[1,2-a]pyrimidine-6-carboxylic acid ethyl ester (137 mg, 0.370 mmol) in THF (1.6 mL) and methanol (0.4 mL) at room temperature. The resulting solution was stirred for 2 hours then concentrated to dryness. Ethyl acetate was added and removed in vacuo three times. The crude residue was diluted in DMF (1.5 mL) and EDC (3 eq, 1.11 mmol, 213 mg), HOBt (3 eq, 1.11 mmol, 150 mg) were added. The mixture was stirred for 15 minutes, then tetrahydropyran-methylamine (1.5 eq, 64 mg) and triethyl amine (3 eq, 1.11 mmol, 0.16 mL) were added. The resulting mixture was stirred overnight. The reaction mixture was quenched by the addition of aqueous NH4Cl solution and the product was extracted with ethyl acetate. The crude product was purified using column chromatography (using 2% methanol/EtOAc as eluent) to afford 3-(3-chlorophenyl)-7-trifluoromehyl-imidazo[1,2-a]pyrimidine-6-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide in 43% yield. 1H NMR (DMSO-d6) δ 11.65 (1H), 8.50-8.52 (2H), 8.19 (1H), 8.01 (1H), 7.48 (1H), 7.41 (1H), 3.92 (2H), 372 (2H), 3.31 (2H), 1.92 (1H), 1.58 (2H), 1.31 (2H); m/z (M+H)=439.3.

reactant | Sodium hydroxide | 2N, 0.4 mL | [OH-].[Na+]
reactant | 3-(3-chlorophenyl)-7-trifluoromehyl-imidazo[1,2-a]pyrimidine-6-carboxylic acid ethyl ester | 0.370 mmol, 137 mg | C(C)OC(=O)C=1C(=NC=2N(C1)C(=CN2)C2=CC(=CC=C2)Cl)C(F)(F)F | C16H11ClF3N3O2
reactant | EDC | 1.11 mmol, 213 mg, 3 eq
reactant | HOBt | 1.11 mmol, 150 mg, 3 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tetrahydropyran-methylamine | 64 mg, 1.5 eq | O1C(CCCC1)CN | C6H13NO
reactant | triethyl amine | 1.11 mmol, 0.16 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.4 mL | CO | CH4O
product | 3-(3-chlorophenyl)-7-trifluoromehyl-imidazo[1,2-a]pyrimidine-6-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 43% yield | O1CCC(CC1)CNC(=O)C=1C(=NC=2N(C1)C(=CN2)C2=CC(=CC=C2)Cl)C(F)(F)F | C20H18ClF3N4O2
